US04259352
Preparation of ethyl 4-[(4-cycloheptyl)butylamino]-cinnamate
A mixture of ethyl p-aminocinnamate, 5.9 g. 4-bromobutylcycloheptane and one equivalent of anhydrous powdered potassium carbonate in 50 ml. hexamethylphosphoramide is heated for 20 hours at 60° C. The mixture is then cooled, diluted with water and extracted with ether. The combined ether extracts are dried, filtered and evaporated. Crystallization from acetonitrile provides the title compound as white crystals.

reactant | ethyl p-aminocinnamate | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | 4-bromobutylcycloheptane | BrCCCCC1CCCCCC1 | C11H21Br
reactant | potassium carbonate | one equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 4-[(4-cycloheptyl)butylamino]-cinnamate | C1CCC(CCC1)CCCCNC1=CC=C(C=CC(=O)OCC)C=C1 | C22H33NO2
